US04096253
A solution of 1,3-dimethoxy-17β-hydroxyestra-1,3,5(10)-triene (1.5 g, 4.7 mM), potassium t-butoxide (0.053 g, 0.47 mM) and acrylonitrile (0.5 g, 9.4 mM) in 25 ml of anhydrous benzene is refluxed with vigorous stirring for 5 hrs. An additional 0.5 g of acrylonitrile and 0.025 g of potassium t-butoxide are added; the solution is refluxed for 2 hrs and allowed to stir at room temperature for 18 hrs. The resulting suspension is filtered and the filtrate evaporated in vacuo to give an oily residue which is chromatographed on 100 g of neutral silica gel. Elution with chloroform gives an oil which after trituration with hexane gives 17β-(2-cyanoethoxy-1,3-dimethoxyestra-1,3,5(10)-triene, yield 1.06 g (60.6%); m.p. 142°-144° (toluene-hexane).

reactant | 1,3-dimethoxy-17β-hydroxyestra-1,3,5(10)-triene | 4.7 mM, 1.5 g | COC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OC | C20H28O3
reactant | potassium t-butoxide | 0.47 mM, 0.053 g | CC(C)([O-])C.[K+]
reactant | acrylonitrile | 9.4 mM, 0.5 g | C(C=C)#N | C3H3N
reactant | acrylonitrile | 0.5 g | C(C=C)#N | C3H3N
reactant | potassium t-butoxide | 0.025 g | CC(C)([O-])C.[K+]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 2-cyanoethoxy-1,3-dimethoxyestra-1,3,5(10)-triene | C(#N)CCOC[C@@]12CCC[C@H]1[C@@H]1CCC=3C=C(C=C(C3[C@H]1CC2)OC)OC | C23H31NO3
